US08703797B2
1-(3-Fluoro-4-isopropyl-pyridin-2-yl)-ethanone:
1-(3-Fluoro-4-isopropyl-pyridin-2-yl)-ethanol (prepared in the previous step, 3.00 g, 16.39 mmol) was dissolved in 60 mL of anhydrous toluene. MnO2 (4.05 g, 46.55 mmol) was added and the resulting mixture was stirred at 140° C. overnight. The mixture was then cooled to room temperature and filtered thought a pad of celite. The filtrate was concentrated and purified via MPLC (80 g, 0 to 20% ethyl acetate in hexane) to afford the title compound. Spectroscopic data: 1H-NMR (300 MHz, CDCl3): δ ppm 1.28 (d, J=6.73 Hz, 6 H), 2.70 (s, 3 H), 3.35 (hept, J=6.73 Hz, 1 H), 7.38 (dd, J=5.13 Hz, 1 H), 8.39 (d, J=4.69 Hz, 1 H).

reactant | 1-(3-Fluoro-4-isopropyl-pyridin-2-yl)-ethanol | FC=1C(=NC=CC1C(C)C)C(C)O | C10H14FNO
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | MnO2 | 46.55 mmol, 4.05 g | O=[Mn]=O
product | 1-(3-Fluoro-4-isopropyl-pyridin-2-yl)-ethanone | FC=1C(=NC=CC1C(C)C)C(C)=O | C10H12FNO
